* Resistors,Capacitor,Inductor& Voltage sorce for use in sensitivity analysis J meech jan 2006
* Requires "run" = (0)1...
* Requires "sign" = -1 / 1 to set the sign of the delta componant value.
* run == sequence uses nominal value + tolerance %
*Resistor
.subckt R_sens A B
.param TOLC=SIGN*TOL/100
.param kdr=if(run==sequence,1+TOLC,1)
.param rdif=(R*kdr)-R
.param rseries=if(run==sequence,0.000000000000000001,10000000000000000000000)
.param vrdif=if(run==sequence,{rdif},0)
V1 $G_rdif 0 {vrdif} Rser={rseries}
R1 A B {R*kdr} 
.ends R_sens
*Capacitor
.subckt C_sens A B
.param TOLC=SIGN*TOL/100
.param kdr=if(run==sequence,1+TOLC,1)
.param cdif=(C*kdr)-C
.param rseries=if(run==sequence,0.000000000000000001,10000000000000000000000)
.param vcdif=if(run==sequence,{cdif}*1000000,0)
V1 $G_cdif 0 {vcdif} Rser={rseries}
C1 A B {C*kdr} 
.ends C_sens
*Inductor
.subckt L_sens A B
.param TOLC=SIGN*TOL/100
.param kdr=if(run==sequence,1+TOLC,1)
.param Ldif=(L*kdr)-L
.param rseries=if(run==sequence,0.000000000000000001,10000000000000000000000)
.param vLdif=if(run==sequence,{Ldif}*1000000,0)
V1 $G_ldif 0 {vLdif} Rser={rseries}
L1 A B {L*kdr} 
.ends L_sens
*voltage
.subckt V_sens A B
.param TOLC=SIGN*TOL/100
.param kdr=if(run==sequence,1+TOLC,1)
.param vdif=(V*kdr)-V
.param rseries=if(run==sequence,0.000000000000000001,10000000000000000000000)
.param vvdif=if(run==sequence,{vdif},0)
V2 $G_vdif 0 {vvdif} Rser={rseries}
V1 A B {V*kdr} 
.ends V_sens

* Sensitivity to delta voltage calculation
.subckt sens_calc_v 0V
B1 $G_Voltage_sensitivity 0 V=if(V($G_vdif)==0,0,(V($G_Test_NET)-{Vnom})/V($G_vdif))
.ends sens_calc_v 0V

* Sensitivity to delta resistance calculation
.subckt sens_calc_r 0V
B1 $G_Resistance_sensitivity 0 V=if(V($G_rdif)==0,0,(V($G_Test_NET)-{Vnom})/V($G_rdif)) 
.ends sens_calc_r 0V

* Sensitivity to delta capacitance calculation
.subckt sens_calc_c 0V
B1 $G_Capacitance_sensitivity 0 V=if(V($G_cdif)==0,0,(V($G_Test_NET)-{Vnom})/V($G_cdif)) 
.ends sens_calc_c 0V

* Sensitivity to delta Inductance calculation
.subckt sens_calc_L 0V
B1 $G_Inductance_sensitivity 0 V=if(V($G_Ldif)==0,0,(V($G_Test_NET)-{Vnom})/V($G_Ldif))
.ends sens_calc_L 0V


